US09284315B2
(11) Preparation of 9-(6-methoxypyridin-3-yl)-3-methyl-1-(piperidin-4-yl)-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-2(1H)-one hydrochloride
tert-butyl 4-(9-(6-methoxypyridin-3-yl)-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1(2H)-yl)piperidine-1-carboxylate (75 mg, 0.149 mmol) was dissolved in dichloromethane (10 mL), hydrogen chloride gas was blown to the system for 0.5 h, and a solid was precipitated. The reaction mixture was filtered, the filter cake was washed sequentially with dichloromethane and diethyl ether, and the resulting solid was dried to give 50 mg of the titled compound.

reactant | tert-butyl 4-(9-(6-methoxypyridin-3-yl)-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1(2H)-yl)piperidine-1-carboxylate | 0.149 mmol, 75 mg | COC1=CC=C(C=N1)C1=NC=2C3=C(C=NC2C=C1)CN(C(N3C3CCN(CC3)C(=O)OC(C)(C)C)=O)C | C27H32N6O4
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 9-(6-methoxypyridin-3-yl)-3-methyl-1-(piperidin-4-yl)-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-2(1H)-one hydrochloride | 50 mg | Cl.COC1=CC=C(C=N1)C1=NC=2C3=C(C=NC2C=C1)CN(C(N3C3CCNCC3)=O)C | InChI=1S/C22H24N6O2.ClH/c1-27-13-15-12-24-18-5-4-17(14-3-6-19(30-2)25-11-14)26-20(18)21(15)28(22(27)29)16-7-9-23-10-8-16;/h3-6,11-12,16,23H,7-10,13H2,1-2H3;1H
